US09029560B2
Preparation of (Z)-1-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-3-(3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)butan-2-yl)urea (P66, P353)
The title compound was prepared as described in Example 35 using 1-(2-isopropyl-5-methylphenyl)thiourea and 2-methyl-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)butanoyl azide/3-(4-(3-isocyanatobutan-2-yl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (C35a) and isolated as an off-white powder (0.146 g, 39%).

reactant | 1-(2-isopropyl-5-methylphenyl)thiourea | C(C)(C)C1=C(C=C(C=C1)C)NC(=S)N | C11H16N2S
reactant | 2-methyl-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)butanoyl azide 3-(4-(3-isocyanatobutan-2-yl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | CC(C(=O)N=[N+]=[N-])C(C)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F.N(=C=O)C(C(C)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C
product | (Z)-1-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-3-(3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)butan-2-yl)urea | C(C)(C)C1=C(C=C(C=C1)C)N1/C(/SCC1=O)=N/C(=O)NC(C)C(C)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C33H33F3N6O3S
